US04118487
167 g (0.6 mol) of biphenyl-4-yl-phenyl-chloromethane [alternatively named as diphenyl-phenyl-chloromethane or as α-(biphenyl-4-yl)benzyl chloride] and 92 g (0.66 mol) of trimethylsilylimidazole, dissolved in 500 ml of acetonitrile, are heated under reflux for 15 hours. After distilling off the solvent, the crystalline residue is purified by recrystallization from ethyl acetate. 97 g (52% of theory) of (biphenyl-4-yl)-imidazol-1-yl-phenylmethane of melting point 142° C. are obtained.

reactant | biphenyl-4-yl-phenyl-chloromethane | 0.6 mol, 167 g | C1(=CC=C(C=C1)C(Cl)C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | diphenyl-phenyl-chloromethane | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | α-(biphenyl-4-yl)benzyl chloride | C1(=CC=C(C=C1)C(C1=CC=CC=C1)Cl)C1=CC=CC=C1 | C19H15Cl
reactant | trimethylsilylimidazole | 0.66 mol, 92 g | C[Si](C)(C)C=1NC=CN1 | C6H12N2Si
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | (biphenyl-4-yl)-imidazol-1-yl-phenylmethane | 97 g, 52% | C1(=CC=C(C=C1)C(C1=CC=CC=C1)N1C=NC=C1)C1=CC=CC=C1 | C22H18N2
